US05554607
3-(2-Chloro-6-methylphenyl)-1-ethyl-2-thioxo-imidazolidin-4-one
The title compound was prepared by the procedure described in Example 19 using 9.2 g of N-ethyl glycine, 9.1 g of 2-chloro-6-methylphenyl-isothiocyanate, 10.1 g of triethylamine, and 150 mL of methylene chloride. Purification was achieved by flash chromatography on silica gel (methylene chloride). Crystallization from ethanol afforded the title compound (5.4 g) as a creamy solid, m.p. 124°-126° C. Anal. Calcd. for. C12H13Cl N2O S: C, 53.63; H, 4.87; N, 10.42. Found: C, 53.43; H, 4.79; N, 10.28. Mass spectrum (El, M.+) m/z 268/270.

reactant | N-ethyl glycine | 9.2 g | C(C)NCC(=O)O | C4H9NO2
reactant | 2-chloro-6-methylphenyl-isothiocyanate | 9.1 g | ClC1=C(C(=CC=C1)C)N=C=S | C8H6ClNS
reactant | triethylamine | 10.1 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | 3-(2-Chloro-6-methylphenyl)-1-ethyl-2-thioxo-imidazolidin-4-one | 5.4 g | ClC1=C(C(=CC=C1)C)N1C(N(CC1=O)CC)=S | C12H13ClN2OS
